US06051712
In an analogous manner to that described in Example 22 (l), from tert-butyl 3RS,4SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-yl-acetyl)-piperidine-1-carboxylate by cleavage of the BOC protecting group with hydrogen chloride in methanol there was obtained [(3RS,4SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidin-3-yl]-2-naphthalen-2-yl-ethanone hydrochloride (1:1) in in the form of colourless crystals; MS: 494 (M+H)+.

reactant | 4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-yl-acetyl)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)[O-])C(CC1=CC2=CC=CC=C2C=C1)=O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | [(3RS,4SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-piperidin-3-yl]-2-naphthalen-2-yl-ethanone hydrochloride | Cl.C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CNCC1)C(CC1=CC2=CC=CC=C2C=C1)=O | InChI=1S/C33H35NO3.ClH/c35-33(22-26-11-12-27-9-4-5-10-29(27)21-26)32-23-34-18-17-31(32)28-13-15-30(16-14-28)37-20-6-19-36-24-25-7-2-1-3-8-25;/h1-5,7-16,21,31-32,34H,6,17-20,22-24H2;1H
